US04657893
A solution of methyl-4-amino-2-(3-isopropylureido)benzoate (500 mg), prepared as described in Preparation XVIII, above, in ethyl acetate (10 ml) was added to a solution of trichloromethylchloroformate (0.157 gm) in 5 ml ethyl acetate. After 11/2 hours, 5 ml of n-propylamine was added. The solution was diluted with ethyl acetate, extracted with water, 5% hydrochloric acid and washed with saturated sodium bicarbonate solution. The ethyl acetate layer was dried over magnesium sulphate and evaporated to yield methyl-4-(3-propylureido)-2-(3-isopropylureido)benzoate, as a solid, m.p. 94°-95° C.

reactant | methyl-4-amino-2-(3-isopropylureido)benzoate | 500 mg | COC(C1=C(C=C(C=C1)N)NC(=O)NC(C)C)=O | C12H17N3O3
reactant | trichloromethylchloroformate | 0.157 gm | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
reactant | n-propylamine | 5 ml | C(CC)N | C3H9N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | methyl-4-(3-propylureido)-2-(3-isopropylureido)benzoate | COC(C1=C(C=C(C=C1)NC(=O)NCCC)NC(=O)NC(C)C)=O | C16H24N4O4
